US08729078B2
1-(3-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-3-(tritylamino)-1H-pyrazole-4-carbonitrile (382 mg 0.582 mmol) was dissolved in Et2O (30 mL) and cooled to 0° C. in. MeOH (2 mL) was added followed by saturated ethereal HCl (2 mL, prepared by bubbling HCl gas into 100 mL of ether). The reaction mixture was allowed to stir at 0° C. for 30 minutes, after which, it was judged to be complete by TLC. The volatiles were removed in vacuo and residue was partitioned between saturated aqueous NaHCO3 (100 mL) and EtOAc (100 mL) and stirred vigorously. The aqueous layer was separated and extracted with EtOAc (50 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The oily residue was bound to silica gel and the crude product was purified over a 25 g silica gel cartridge eluting the column with a 20-70% EtOAc/hexanes gradient to give 3-Amino-1-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrazole-4-carbonitril (178 mg, 74%) as a white-powdery solid.

reactant | 1-(3-(6-tert-butyl-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-3-(tritylamino)-1H-pyrazole-4-carbonitrile | 0.582 mmol, 382 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C42H36N6O2
reactant | MeOH | 2 mL | CO | CH4O
reactant | HCl | 2 mL | Cl | ClH
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 3-Amino-1-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrazole-4-carbonitril | 178 mg, 74% | NC1=NN(C=C1C#N)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)CO | C23H22N6O2
